US04180669
2-(N-Benzyl-1,2,3,6-tetrahydro-4-pyridyl)-5-isopropyl resorcinol hydrochloride
5-Isopropyl resorcinol (20.2 g), N-benzyl-4-piperidone (24.6 g) and 45 ml acetic acid was treated with HCl gas as described in Example VI to give 39.15 g product, m.p. 286°-288°.

reactant | 5-Isopropyl resorcinol | 20.2 g | C(C)(C)C=1C=C(C=C(O)C1)O | C9H12O2
reactant | N-benzyl-4-piperidone | 24.6 g | C(C1=CC=CC=C1)N1CCC(CC1)=O | C12H15NO
reactant | HCl | Cl | ClH
solvent | acetic acid | 45 ml | C(C)(=O)O | C2H4O2
product | 2-(N-Benzyl-1,2,3,6-tetrahydro-4-pyridyl)-5-isopropyl resorcinol hydrochloride | 39.15 g | Cl.C(C1=CC=CC=C1)N1CCC(=CC1)C1=C(O)C=C(C=C1O)C(C)C | InChI=1S/C21H25NO2.ClH/c1-15(2)18-12-19(23)21(20(24)13-18)17-8-10-22(11-9-17)14-16-6-4-3-5-7-16;/h3-8,12-13,15,23-24H,9-11,14H2,1-2H3;1H
